US07744889B2
(E)-2,4,6-Trimethoxystyryl-4-methoxy-3-nitrobenzylsulfoxide (1.3 mmol) was dissolved in a 2 to 1mixture of acetone and water (50 mL). The resulting mixture was heated to 50° C. After heating at 50° C. for 30 min, sodium dithionite (26.3 mmol) was added to the heated reaction mixture (portionwise over 20 minutes). The resulting mixture was maintained at 50° C. for 1hour, then cooled to room temperature (25° C.). Water (50 mL) was added to the cooled mixture. The resulting mixture was extracted with ethyl acetate (3×50 mL). The ethyl acetate extracts were combined and washed with saturated aqueous NaHCO3. The ethyl acetate extract was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure to yield the crude product. The crude product was recrystallized from 2-propanol to afford the desired (E)-2,4,6-trimethoxy styryl-3-amino-4-methoxybenzylsulfoxide, as listed in Table 6.

reactant | (E)-2,4,6-Trimethoxystyryl-4-methoxy-3-nitrobenzylsulfoxide | 1.3 mmol | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)[N+](=O)[O-])S(=O)C(C2=CC(=C(C=C2)OC)[N+](=O)[O-])\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H40N2O13S
reactant | sodium dithionite | 26.3 mmol | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetone | CC(=O)C | C3H6O
solvent | water | 50 mL | O | H2O
solvent | Water | 50 mL | O | H2O
product | (E)-2,4,6-trimethoxy styryl-3-amino-4-methoxybenzylsulfoxide | COC1=C(/C=C/C(C2=CC(=C(C=C2)OC)N)S(=O)C(C2=CC(=C(C=C2)OC)N)\C=C\C2=C(C=C(C=C2OC)OC)OC)C(=CC(=C1)OC)OC | C38H44N2O9S
